US05519021
To a solution containing (±) 6-chloro-4-phenylethynyl-4-trifluoromethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one (2.24 g, 6.37 mmol), 4-dimethylaminopyridine (0.10 g, 0.8 mmol), and (-) camphanic acid chloride (2.07 g, 9.55 mmol) in 60 mL of dry dichloromethane, stirred under argon in an ice bath, was added triethylamine (2.22 mL, 15.9 mmol). The cooling bath was removed and the reaction was allowed to proceed at room temperature. When the reaction was complete by thin layer chromatography (SiO2, 4% EtOAc in CHCl3), the solution was diluted with 200 mL of CHCl3 and washed twice with 10% citric acid, then with brine. Upon drying (MgSO4) the solvent was removed on a rotary evaporator and the foamy reside was subjected to flash chromatography, eluting with CHCl3. There was obtained 575 mg of diastereomer I of 6-chloro-(1S)-camphanoyl-4-phenylethynyl-4-trifluoromethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one as an oil, 1H-NMR (CDCl3): δ0.85 (s, 3H), 1.08 (s, 3H), 1.22 (s, 3H), 1.73-1.85 (m, 1H), 1.92-2.08 (m, 1H), 2.50-2.67 (m, 2H), 7.30-7.79 (m, 8H). This was followed by 1.52 g of mixed fractions (diastereomers I and II). Continued elution afforded 680 mg of the slower-moving diastereomer (II) of the title compound which, upon trituration with an ether/hexane mixture, gave clumps of white needles, mp 177°-178.5° C.; 1H-NMR (CDCl3): δ0.83 (s, 3H), 1.12 (s, 3H), 1.23 (s, 3H), 1.73-1.86 (m, 1H), 1.93-2.06 (m, 1H), 2.50-2.63 (m, 2H), 7.38-7.51 (m, 4H), 7.49-7.62 (m, 2H), 7.72 (d, J=9 Hz, 1H), 7.76 (d, J=2 Hz, 1 H).

reactant | (±) 6-chloro-4-phenylethynyl-4-trifluoromethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 6.37 mmol, 2.24 g | ClC=1C=CC2=C(C(OC(N2)=O)(C(F)(F)F)C#CC2=CC=CC=C2)C1 | C17H9ClF3NO2
reactant | (-) camphanic acid chloride | 9.55 mmol, 2.07 g | C12(C(CC(CC1)C2(C)C)C(=O)Cl)C | C11H17ClO
reactant | triethylamine | 15.9 mmol, 2.22 mL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 60 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.8 mmol, 0.10 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-chloro-(1S)-camphanoyl-4-phenylethynyl-4-trifluoromethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | ClC1CC2CC([C@]1(C2(C)C)C)C(=O)N2C(OC(C1=C2C=CC=C1)(C(F)(F)F)C#CC1=CC=CC=C1)=O | C28H25ClF3NO3
